US07777047B2
5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylic acid
Ethyl 5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylate (7.7 g) was dissolved in a mixed solvent of ethanol (75 mL) and tetrahydrofuran (75 mL), 1N aqueous sodium hydroxide solution (75 mL) was added to this solution, and the mixture was stirred at 50° C. for 1.5 hr. Aqueous citric acid solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over magnesium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The obtained crude product was crystallized from ethyl acetate-hexane to give the title compound (6.8 g, yield 97%) as yellow crystals. melting point 192-193° C.

reactant | Ethyl 5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylate | 7.7 g | COCCOC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)OCC | C14H16N2O6
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 75 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 75 mL | [OH-].[Na+]
product | 5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylic acid | 6.8 g, yield 97% | COCCOC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)O | C12H12N2O6
